US07700655B2
(1) (S)-2-Amino-3-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]propionamide
A mixture of 3,5-bis(trifluoromethyl)aniline (0.20 g, 0.87 mmol), N-(tert-butoxycarbonyl)-L-phenylalanine (254.8 mg, 0.96 mmol), phosphorus trichloride (40 μL, 0.46 mmol) and toluene (4 mL) was stirred at 80° C. for 1.5 hours under argon atmosphere. After the reaction mixture was cooled to room temperature, it was poured into aqueous sodium hydrogen carbonate and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was crystallized by isopropyl ether/n-hexane to give the title compound (333.7 mg, 92.9%) as an yellow white powder.

reactant | 3,5-bis(trifluoromethyl)aniline | 0.87 mmol, 0.20 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | N-(tert-butoxycarbonyl)-L-phenylalanine | 0.96 mmol, 254.8 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | phosphorus trichloride | 0.46 mmol, 40 μL | P(Cl)(Cl)Cl | Cl3P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-Amino-3-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]propionamide | 333.7 mg, 92.9% | N[C@H](C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC=CC=C1 | C17H14F6N2O
